US06861419B2
2-(3-Oxo-butanoylamino)-benzoic acid methyl ester (383 mg, 1.63 mmol) was combined with diethyl ether (10 mL) and methanol (5 mL) and the mixture was stirred rapidly while a solution of sodium methoxide (25% solution, 1.63 mmol, 0.45 mL) in methanol (3 mL) was added over 10 minutes. The reaction then was heated at 40° C. overnight. Progress of the reaction was monitored by TLC (silica gel, hexane:EtOAc:CH2Cl2:acetone (3:3:3:1)) and analytical HPLC and upon its completion the mixture was acidified with 1 N sulfuric acid to form a solid. The solid was collected by filtration and then crystallized from hot acetic acid/acetonitrile/water to provide 3-acetyl-4-hydroxy-1H-quinolin-2-one (250 mg, 76%) as small colorless prisms, mp 258-262° C. (dec) (lit., 259° C.). LCMS MH+ 204.2.

reactant | 2-(3-Oxo-butanoylamino)-benzoic acid methyl ester | 1.63 mmol, 383 mg | COC(C1=C(C=CC=C1)NC(CC(C)=O)=O)=O | C12H13NO4
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
reactant | sodium methoxide | 1.63 mmol, 0.45 mL | C[O-].[Na+]
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
solvent | hexane EtOAc CH2Cl2 acetone | CCCCCC.CCOC(=O)C.C(Cl)Cl.CC(=O)C
product | 3-acetyl-4-hydroxy-1H-quinolin-2-one | 250 mg, 76% | C(C)(=O)C=1C(NC2=CC=CC=C2C1O)=O | C11H9NO3
